US09169203B2
Step 1: Synthesis of 1-(dodecylamino)-4-(methylthio)-1-oxobutan-2-yl acetate.
To a solution of 2-acetoxy-4-(methylthio)butanoic acid (17.1 g, 89 mmol) in dichloromethane (350 mL) at 0° C. was added thionyl chloride (32.4 mL, 445 mmol) dropwise over 1 hr. The reaction was stirred at 0° C. for 1.5 hrs then the cooling bath was removed and the reaction was warmed to room temperature with stirring for 3 hrs. The solvent was evaporated and the resulting oil was dried under high vacuum for 1 hr to give an orange oil. A solution of the resulting oil in dichloromethane (˜30 mL) was added to a solution of triethylamine (24.8 mL, 178 mmol) and dodecylamine (20.5 mL, 89 mmol) in dichloromethane (150 mL) at 0° C. and the reaction was allowed to warm to room temperature with stirring overnight. The reaction was evaporated, re-dissolved in EtOAc (300 mL) and washed with 1N HCl (3×150 mL), saturated sodium bicarbonate (3×150 mL), and brine (1×150 mL). The organic layer was dried over magnesium sulfate, filtered and evaporated to give an oil. The oil was purified by silica gel chromatography with 0-40% EtOAc/heptane to give a yellow oil. (22.5 g, 70%). m/z 360 (MH+).

reactant | 2-acetoxy-4-(methylthio)butanoic acid | 89 mmol, 17.1 g | C(C)(=O)OC(C(=O)O)CCSC | C7H12O4S
reactant | thionyl chloride | 445 mmol, 32.4 mL | S(=O)(Cl)Cl | Cl2OS
reactant | triethylamine | 178 mmol, 24.8 mL | C(C)N(CC)CC | C6H15N
reactant | dodecylamine | 89 mmol, 20.5 mL | C(CCCCCCCCCCC)N | C12H27N
solvent | dichloromethane | 350 mL | ClCCl | CH2Cl2
solvent | dichloromethane | ˜30 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
product | 1-(dodecylamino)-4-(methylthio)-1-oxobutan-2-yl acetate | C(C)(=O)OC(C(=O)NCCCCCCCCCCCC)CCSC | C19H37NO3S
